US08283478B2
N-[(2-methyl-3-benzofuranyl)methyl]-sulfamide (Compound #13)
2-Methylbenzofuran-3-carbaldehyde (0.51 g, 3.18 mmol) was dissolved in anhydrous ethanol (25 mL). Sulfamide (1.5 g, 16 mmol) was added and the mixture was heated to reflux for 4 days. The mixture was cooled to room temperature. Sodium borohydride (0.132 g, 3.50 mmol) was added and the mixture was stirred at room temperature for 24 hours. The reaction was diluted with water (100 mL) and extracted with DCM (3×75 mL). The extracts were concentrated and suspended in a minimal amount of DCM and filtered to yield the title compound as a white solid.

reactant | 2-Methylbenzofuran-3-carbaldehyde | 3.18 mmol, 0.51 g | CC=1OC2=C(C1C=O)C=CC=C2 | C10H8O2
reactant | Sulfamide | 16 mmol, 1.5 g | S(=O)(=O)(N)N | H4N2O2S
reactant | Sodium borohydride | 3.50 mmol, 0.132 g | [BH4-].[Na+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
product | N-[(2-methyl-3-benzofuranyl)methyl]-sulfamide | CC=1OC2=C(C1CNS(=O)(=O)N)C=CC=C2 | C10H12N2O3S
